US06107291
To a solution of Hydroxymethyl-1-(4-methoxy-benzene sulfonyl)-azepane-2-carboxylic acid tert-butyl ester (0.5 g, 1.25 mmoL) in 1.25 mL in THF was added sodium bromide (19 mg, 0.19 mmoL). This suspention was cooled to 0° C. and TEMPO (25 mg, 5%) was added in followed by 1.41 mL of a 0.129M solution of sodium bicarbonate in Clorox bleach. The magnetic stirring was increased to obtain a biphasic solution and kept at that rate for three hours while the reaction gradually warmed to ambient temperature. The reaction was then quenched with sodium sulfite (1.26 g). After 20 minutes water and ethyl acetate were added in, the layers were separated, and the organic layer was dried over anhydrous magnesium sulfate and filtered. The solvent removed under reduced pressure, and the residue was purified by column chromatography (silica: 15% to 25% ethyl acetate in hexanes) to yield 3-Formyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester; MS: (M+H)+ =398, (M+NH4)+ =415.

reactant | Hydroxymethyl-1-(4-methoxy-benzene sulfonyl)-azepane-2-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)C1(N(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)CO | C19H29NO6S
reactant | sodium bromide | 19 mg | [Br-].[Na+]
reactant | TEMPO | 25 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-Formyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCCCC1C=O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H27NO6S
